US06727275B2
Preparation of 1-(4-chlorophenyl)-5-cyclohexyl-3-hydroxy-4-[3-(4-hydroxyphenyl)propanoyl]-1,5-dihydro-2H-pyrrol-2-one (Compound 67)
To a stirring solution of p-chloraniline (320 mg, 2.5 mmol) in 2.5 mL of acetic acid at room temperature, are added cyclohexane carboxaldehyde (0.30 mL, 2.5 mmol) and ethyl 6-(4-hydroxyphenyl)-2,4-dioxohexanoate (618 mg, 2.5 mmol). The reaction mixture is stirred at room temperature. After 30 minutes a white precipitate is formed. The solvent is removed under reduced pressure and the crude material recrystallized from a mixture of ether/methanol. The final compound is collected after filtration as a white crystalline solid m.p. 259° C.

reactant | p-chloraniline | 2.5 mmol, 320 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | cyclohexane carboxaldehyde | 2.5 mmol, 0.30 mL | C1(CCCCC1)C=O | C7H12O
reactant | ethyl 6-(4-hydroxyphenyl)-2,4-dioxohexanoate | 2.5 mmol, 618 mg | OC1=CC=C(C=C1)CCC(CC(C(=O)OCC)=O)=O | C14H16O5
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
product | 1-(4-chlorophenyl)-5-cyclohexyl-3-hydroxy-4-[3-(4-hydroxyphenyl)propanoyl]-1,5-dihydro-2H-pyrrol-2-one | ClC1=CC=C(C=C1)N1C(C(=C(C1C1CCCCC1)C(CCC1=CC=C(C=C1)O)=O)O)=O | C25H26ClNO4
